US04232163
Preparation of 4-[N-4-chlorophenyl-N-methyl(Carbamoylmethyl)]-2-propionamidothiazole
A 300 ml reaction flask was charged with 6.0 g (0.021 mole) of 2-amino-4-[N-4-chlorophenyl-N-methyl(carbamoylmethyl)] thiazole, 100 ml of 1,2-dimethoxyethane and 2.6 g (0.03 mole) of pyridine. The propionyl chloride (2.8 g, 0.03 mole) which was dissolved in 15 ml of 1,2-dimethoxyethane was added portionwise and the reaction solution was heated at 65° for two hours. The solvent was evaporated and the residue was dissolved in ethyl acetate. The organic phase was extracted with water and dried over sodium sulfate. After evaporating most of the ethyl acetate, hexane was added. There was obtained 3.7 g (51%) of product, M.P. 153°-5°. N.M.R. (CDCl3) ∂1.2-1.4 (CH3), 2.3-2.5 (CH2), 3.3 (NCH3), 3.5 (0=CCH2), 6.5 (hetero-aromatic) 7.2-7.4 (aromatic).

reactant | 2-amino-4-[N-4-chlorophenyl-N-methyl(carbamoylmethyl)] thiazole | 0.021 mole, 6.0 g | NC=1SC=C(N1)CC(N(C)C1=CC=C(C=C1)Cl)=O | C12H12ClN3OS
reactant | pyridine | 0.03 mole, 2.6 g | N1=CC=CC=C1 | C5H5N
reactant | propionyl chloride | 0.03 mole, 2.8 g | C(CC)(=O)Cl | C3H5ClO
solvent | 1,2-dimethoxyethane | 15 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
product | 4-[N-4-chlorophenyl-N-methyl(Carbamoylmethyl)]-2-propionamidothiazole | 3.7 g, 51% | ClC1=CC=C(C=C1)N(C(=O)CC=1N=C(SC1)NC(CC)=O)C | C15H16ClN3O2S
